US07456211B2
(S)-2-[(3S,4R)-3-Benzyloxymethyl-4-butyl-2-oxopyrrolidin-1-yl]-3,3, N,N-tetramethyl butyramide (0.08 g, 0.2 mmol) was dissolved in methanol (2 mL) and stirred overnight under a hydrogen balloon in the presense of palladium on activated carbon (15 mg). Filtration followed by concentration provided a crude alcohol (58 mg) which was dissolved in dichloromethane (5 mL) and treated with Dess-Martin periodinane (0.13 g, 0.3 mmol) at 0° C. After warning up to rt, the reaction was stirred overnight and the solvent was removed under vacuum. The residue was then dissolved in pyridine (5 mL) and benzyloxyamine hydrochloride (0.064 g, 0.4 mmol) was added. After 1 h, the reaction mixture was condensed to dryness, the residue was dissolved in 1 N aq. NaOH/dichloromethane (2:3, 15 mL). The organic phase was separated, the aqueous phase was extracted with dichloromethane (5 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. Purification of the residue by HPLC afforded (S)-2-[(3S,4R)-3-benzyloxyiminomethyl-4-butyl-2-oxopyrrolidin-1-yl]-3,3,N,N-tetramethyl butyramide as a colorless oil (0.05 g, 61%). MS(ES) m/e 416 [M+H]+.

reactant | (S)-2-[(3S,4R)-3-Benzyloxymethyl-4-butyl-2-oxopyrrolidin-1-yl]-3,3, N,N-tetramethyl butyramide | 0.2 mmol, 0.08 g | C(C1=CC=CC=C1)OC[C@H]1C(N(C[C@@H]1CCCC)[C@H](C(=O)N(C)C)C(C)(C)C)=O | C24H38N2O3
reactant | Dess-Martin periodinane | 0.3 mmol, 0.13 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | benzyloxyamine hydrochloride | 0.4 mmol, 0.064 g | Cl.C(C1=CC=CC=C1)ON
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium on activated carbon | 15 mg | [Pd] | Pd
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | NaOH dichloromethane | 1 N, 15 mL | [OH-].[Na+].ClCCl
product | (S)-2-[(3S,4R)-3-benzyloxyiminomethyl-4-butyl-2-oxopyrrolidin-1-yl]-3,3,N,N-tetramethyl butyramide | 0.05 g, 61% | C(C1=CC=CC=C1)ON=C[C@H]1C(N(C[C@@H]1CCCC)[C@H](C(=O)N(C)C)C(C)(C)C)=O | C24H37N3O3
